US07473784B2
3. (R)-2-(2-(sec-Butylamino)benzo[d]thiazol-6-yl)acetonitrile
A mixture of 2-(2-bromobenzo[d]thiazol-6-yl)acetonitrile (2.00 g, 7.90 mmol) and (R)-sec-butylamine (4.0 mL, 39.4 mmol) in 1,4-dioxane (30 mL) was heated at 135° C. in a sealed bottle for 3.5 hr. The excess (R)-sec-butylamine and 1,4-Dioxane were removed under vacuum. The residue was diluted with AcOEt (150 mL), washed successively with saturated NaHCO3 solution (twice) and brine, and dried over anhydrous MgSO4. The title compound (1.35 g, 70% yield) was isolated as a light orange oil by ISCO (40% AcOEt/hexane).

reactant | 2-(2-bromobenzo[d]thiazol-6-yl)acetonitrile | 7.90 mmol, 2.00 g | BrC=1SC2=C(N1)C=CC(=C2)CC#N | C9H5BrN2S
reactant | (R)-sec-butylamine | 39.4 mmol, 4.0 mL | [C@@H](C)(CC)N | C4H11N
reactant | AcOEt hexane | CCOC(=O)C.CCCCCC
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (R)-2-(2-(sec-Butylamino)benzo[d]thiazol-6-yl)acetonitrile | 1.35 g, 70% yield | [C@@H](C)(CC)NC=1SC2=C(N1)C=CC(=C2)CC#N | C13H15N3S
